US04034106
In a similar manner using 1.2 g. of 3-(β-aminoethylamino)-1-(2-cyanophenoxy)-2-propanol and 1.29 g. of ethyl 4-methanesulphonamidophenylacetate as starting materials there is obtained 1-(2-cyanophenoxy)-3-β-(4-methanesulphonamidophenylacetamido)ethylamino-2-propanol, isolated as its oxalate, m.p. 180°-182° C. after crystallisation from isopropanol.

reactant | 3-(β-aminoethylamino)-1-(2-cyanophenoxy)-2-propanol | NCCNCC(COC1=C(C=CC=C1)C#N)O | C12H17N3O2
reactant | ethyl 4-methanesulphonamidophenylacetate | CS(=O)(=O)NC1=CC=C(C=C1)CC(=O)OCC | C11H15NO4S
product | 1-(2-cyanophenoxy)-3-β-(4-methanesulphonamidophenylacetamido)ethylamino-2-propanol | C(#N)C1=C(OCC(CNCCNC(CC2=CC=C(C=C2)NS(=O)(=O)C)=O)O)C=CC=C1 | C21H26N4O5S
